US09284315B2
(1) Methyl 4-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(trifluoromethyl)phenyl)amino)-6-chloro-1,5-naphthyridine-3-carboxylate
Ethyl 4,6-dichloro-1,5-naphthyridine-3-carboxylate (0.5 g, 1.84 mmol) and tert-butyl 4-(4-amino-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate (0.766 g, 2.22 mmol) were dissolved in a mixture of dichloromethane (5 mL) and tert-butanol (5 mL), to the system added potassium carbonate (0.612 g, 4.43 mmol). The reaction mixture was stirred at room temperature for 24 h, suction filtrated, the solid was washed with 30 mL of dichloromethane, and the resulting wash solution and the filtrate were combined, concentrated under reduced pressure, and the resulting residue was recrystallized from diethyl ether to give 0.73 g of a pale yellow solid.

reactant | Ethyl 4,6-dichloro-1,5-naphthyridine-3-carboxylate | 1.84 mmol, 0.5 g | ClC1=C(C=NC2=CC=C(N=C12)Cl)C(=O)OCC | C11H8Cl2N2O2
reactant | tert-butyl 4-(4-amino-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate | 2.22 mmol, 0.766 g | NC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C16H22F3N3O2
reactant | potassium carbonate | 4.43 mmol, 0.612 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
product | Methyl 4-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(trifluoromethyl)phenyl)amino)-6-chloro-1,5-naphthyridine-3-carboxylate | 0.73 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)NC1=C(C=NC2=CC=C(N=C12)Cl)C(=O)OC)C(F)(F)F | C26H27ClF3N5O4
